US04107438
a. 3-(p-Chlorophenylthio)-propionitrile
10 ml of β-chloropropionitrile (0.13 mol) are added, whilst stirring at 70°-80° C, to a solution of 17.4 g (0.12 mol) of p-chlorothiophenol and 4.8 g of sodium hydroxide pellets in 50 ml of water. The mixture is kept at 80° C for half an hour. After cooling, it is extracted with ether and the extract is washed with water and dried. 22.5 g of 3-(p-chlorophenylthio)-propionitrile. Melting point = 53-54° C.

reactant | β-chloropropionitrile | 0.13 mol, 10 ml | ClCCC#N | C3H4ClN
reactant | p-chlorothiophenol | 0.12 mol, 17.4 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | sodium hydroxide | 4.8 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 3-(p-Chlorophenylthio)-propionitrile | ClC1=CC=C(C=C1)SCCC#N | C9H8ClNS
